US07407968B2
tert-Butyl 3-{[(4-{[bis(2,2,2-trifluoroethyl)amino]carbonyl}-2-nitrophenyl)amino]methyl}morpholine-4-carboxylate
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (213 mg, 0.612 mmol) and tert-butyl 3-(aminomethyl)morpholine-4-carboxylate (160 mg, 0.734 mmol) in 10 mL of EtOH containing TEA (0.130 mL, 0.918 mmol). The product was purified by flash chromatography on silica gel using 2:1/hexanes:EtOAc as eluent. Yield: 304 mg (91%); 1H NMR (400 MHz, CHLOROFORM-D) δ 1.49 (s, 9H), 3.17 (m, 1H), 3.52 (m, 1H), 3.64 (m, 3H), 3.92 (m, 2H), 4.25 (q, J=8.20 Hz, 6H), 7.57 (d, J=8.59 Hz, 1H), 8.30 (d, J=1.95 Hz, 1H), 8.48 (m, 1H); MS (ESI) 544.75 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.612 mmol, 213 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | tert-butyl 3-(aminomethyl)morpholine-4-carboxylate | 0.734 mmol, 160 mg | NCC1N(CCOC1)C(=O)OC(C)(C)C | C10H20N2O3
solvent | EtOH | 10 mL | CCO | C2H6O
product | tert-Butyl 3-{[(4-{[bis(2,2,2-trifluoroethyl)amino]carbonyl}-2-nitrophenyl)amino]methyl}morpholine-4-carboxylate | FC(CN(C(=O)C1=CC(=C(C=C1)NCC1N(CCOC1)C(=O)OC(C)(C)C)[N+](=O)[O-])CC(F)(F)F)(F)F | C21H26F6N4O6
